US07834000B2
N-Boc-aniline (16.12 g, 83.4 mmol) was dissolved in anhydrous tetrahydrofuran (120 mL) and cooled to −70° C. To this solution was added dropwise, under nitrogen, a 1.7 M solution of tert-butyllithium in pentane (110 mL, 187 mmol) at −70° C. After 30 min at −70° C., the solution was warmed to −20° C. and maintained at that temperature for 2 h. The solution was again cooled to −70° C. and treated dropwise with a solution of N-Boc-4-piperidone (15.98 g, 80.2 mmol) in anhydrous tetrahydrofuran (50 mL). The solution was slowly warmed to room temperature, treated with potassium tert-butoxide (25 mg) and stirred at room temperature overnight under nitrogen. The solution was diluted with diethyl ether (300 mL), cooled in an ice-H2O bath and adjusted to pH 7 with 1.0 N HCl (aq). The layers were separated and the aqueous layer extracted once with diethyl ether (100 mL). The pooled organic layers were washed with H2O and saturated brine, then dried over Na2SO4 and filtered. The filtrate was concentrated under reduced pressure to afford 39.09 g crude product as a viscous pale yellow oil. The crude product was purified via silica gel flash chromatography (25-50% ethyl acetate in hexanes) to afford tert-butyl 2-oxo-1,2-dihydrospiro[benzo[d][1,3]oxazine-4,4′-piperidine]-1′-carboxylate as a pale yellow solid (8.687 g, 34% yield). LC/MS m/z 319.0 [M+H]+, retention time 2.72 min (RP—C18, 10-99% CH3CN/0.05% TFA); 1H-NMR (400 MHz, CDCl3) δ 9.06 (br s, 1H), 7.28 (m, 1H), 7.12 (m, 2H), 6.91 (d, J=8.5 Hz, 1H), 4.12 (br d, J=9.9 Hz, 2H), 3.36 (br t, J=12.4 Hz, 2H), 2.13 (br d, J=13.1 Hz, 2H), 1.98 (m, 2H), 1.51 (s, 9H).

reactant | N-Boc-aniline | 83.4 mmol, 16.12 g | C(=O)(OC(C)(C)C)NC1=CC=CC=C1 | C11H15NO2
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 187 mmol, 110 mL | CCCCC | C5H12
reactant | N-Boc-4-piperidone | 80.2 mmol, 15.98 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | HCl | 1.0 N | Cl | ClH
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
catalyst | potassium tert-butoxide | 25 mg | CC(C)([O-])C.[K+]
product | tert-butyl 2-oxo-1,2-dihydrospiro[benzo[d][1,3]oxazine-4,4′-piperidine]-1′-carboxylate | 8.687 g, 34% yield | O=C1OC2(CCN(CC2)C(=O)OC(C)(C)C)C2=C(N1)C=CC=C2 | C17H22N2O4
